US04385177
Diphenylmethyl Chloroacetohydroxamate
This compound was prepared from diphenylmethoxyamine hydrochloride and chloroacetyl chloride by the method described in Preparation 1; m.p. 115°-117° νmax (CHBr3) include 3400 (NH), 1692 cm-1 (CO-N), τ(DMSO d6) 0.55 (NH), 2.60 (Ph) 4.01 (CHPh2), 6.02 (CH2). Yield 86%.

reactant | diphenylmethoxyamine hydrochloride | Cl.C1(=CC=CC=C1)C(ON)C1=CC=CC=C1
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | CHBr3 | C(Br)(Br)Br | CHBr3
solvent | DMSO | CS(=O)C | C2H6OS
product | Diphenylmethyl Chloroacetohydroxamate | Yield 86% | ClCC(=O)NOC(C1=CC=CC=C1)C1=CC=CC=C1 | C15H14ClNO2
